US05001125
A mixture of 3.5 parts of N-(6--chloro-3-pyridazinyl)acetamide, 3.6 parts of 1-(3-methylphenyl)piperazine and 2.8 parts of potassium carbonate was stirred for 7 hours in an oil bath at 160° C. After cooling, trichloromethane and water were added. The layers were separated. The organic layer Was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and 2-propanone. The salt was filtered off and dried, yielding 0.5 parts (6.6%) of 6-[4-(3-methylphenyl)-1-piperazinyl]-3-pyridazinamine dihydrochloride; mp. 178.5° C. (compound 220).

reactant | N-(6--chloro-3-pyridazinyl)acetamide | ClC1=CC=C(N=N1)NC(C)=O | C6H6ClN3O
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 6-[4-(3-methylphenyl)-1-piperazinyl]-3-pyridazinamine dihydrochloride | 6.6% | Cl.Cl.CC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(N=N1)N | InChI=1S/C15H19N5.2ClH/c1-12-3-2-4-13(11-12)19-7-9-20(10-8-19)15-6-5-14(16)17-18-15;;/h2-6,11H,7-10H2,1H3,(H2,16,17);2*1H
